US07842696B2
Pd/C (20 mg in 3 drops of water) was added to 4-(4-benzyloxy-phenoxy)-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide (80 mg, 0.13 mmol) in MeOH (10 mL). The resulting reaction mixture was stirred at room temperature under an atmosphere of hydrogen for 3 hours. The reaction mixture was then filtered through a bed of celite. The methanol was removed to afford 80 mg of crude product. Purification by column chromatography (using silica gel of mesh size of 60-120 and 80/20 EtOAc:Hexane as the eluent) afforded 33 mg (48% yield) of 4-(4-hydroxy-phenoxy)-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide LC-MS purity: 93%. 1H NMR (DMSO-D6): δ 9.4 (s, 1H), 8.5 (t, 1H), 7.9-7.5 (m, 6H), 6.8-7 (m, 5H), 4.2 (d, 2H), 3.5 (m, 6H), 3.1 (m, 2H).

reactant | 4-(4-benzyloxy-phenoxy)-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 0.13 mmol, 80 mg | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C(=O)NCC(N3CCN(CC3)C(C3=C(C=CC=C3)C(F)(F)F)=O)=O)C=C2)C=C1 | C34H30F3N3O5
reactant | Hexane | CCCCCC | C6H14
catalyst | Pd/C | 3 drops, 20 mg | [Pd] | Pd
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(4-hydroxy-phenoxy)-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 33 mg, 48% yield | OC1=CC=C(OC2=CC=C(C(=O)NCC(N3CCN(CC3)C(C3=C(C=CC=C3)C(F)(F)F)=O)=O)C=C2)C=C1 | C27H24F3N3O5
